US08211908B2
To a solution of 297 mg of 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one and 159 mg of 3-oxo-3,4-dihydro-2H-pyrido(3,2-b)(1,4)oxazine-6-carbaldehyde in 4 mL of chloroform and 1 mL of methanol, 0.11 mL of acetic acid was added, and the mixture was stirred at room temperature for 16 hours. To the reaction mixture, 299 mg of sodium triacetoxyborohydride was added, and the mixture was stirred for 1.5 hours. Thereto was added a saturated aqueous sodium hydrogen carbonate solution, and the organic layer was separated. The organic layer was washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using silica gel; Silica Gel 60 made by KANTO CHEMICAL CO., INC., and an eluent of chloroform:methanol (mixing 5% of 28% ammonium water)=87:13 to obtain 275 mg of 1-(2-(4-((3-oxo-3,4-dihydro-2H-pyrido(3,2-b)(1,4)oxazin-6-yl)methylamino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one as a yellow foam.

reactant | 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one | 297 mg | NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O | C16H22N4O2
reactant | 3-oxo-3,4-dihydro-2H-pyrido(3,2-b)(1,4)oxazine-6-carbaldehyde | 159 mg | O=C1NC2=C(OC1)C=CC(=N2)C=O | C8H6N2O3
reactant | sodium triacetoxyborohydride | 299 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 1 mL | CO | CH4O
solvent | acetic acid | 0.11 mL | C(C)(=O)O | C2H4O2
product | 1-(2-(4-((3-oxo-3,4-dihydro-2H-pyrido(3,2-b)(1,4)oxazin-6-yl)methylamino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one | 275 mg | O=C1NC2=C(OC1)C=CC(=N2)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O | C24H28N6O4
